US04845291
5-(3-Methylbut-2-enyl)-2,4-toluenediamine
A 200g (1.64 mol) portion of 2,4-toluenediamine, 167g (2.45 mol) of isoprene, 200g (2.78 mol) pentane, and 20g of catalyst comprised of 13% alumina and 87% silica were reacted at 200° C. in a similar fashion as indicated in Example 5. Isolation of catalyst free sample was accomplished by hot filtration. Selective removal of all residual low boiling hydrocarbons by vacuum distillation afforded the following product mixture:

reactant | 2,4-toluenediamine | C=1(C(=CC(=CC1)N)N)C | C7H10N2
reactant | isoprene | C=CC(C)=C | C5H8
solvent | pentane | CCCCC | C5H12
product | 5-(3-Methylbut-2-enyl)-2,4-toluenediamine | CC(=CCC1=C(C=C(C(=C1)C)N)N)C | C12H18N2
